US07514460B2
1-(4-Chloro-2-trifluoromethylphenyl)-3-[2-(6,7-dimethoxyquinazolin-4-ylamino)benzothiazol-6-yl]urea was prepared from 4-chloro-2-(trifluoromethyl)phenyl isocyanate (17 μL, 0.113 mmol) and N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine (40 mg, 0.113 mmol) according to GP 3. The solid was filtered off and washed thoroughly with dichloromethane to obtain a yellow solid (27 mg, 48 μmol, 42%). LC/ESI-MS: m/z=575 [M(35Cl)+H]+; m/z=573 [M(35Cl)−H]−; Rt=3.79 min.

reactant | 4-chloro-2-(trifluoromethyl)phenyl isocyanate | 0.113 mmol, 17 μL | ClC1=CC(=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
reactant | N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine | 0.113 mmol, 40 mg | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)N | C17H15N5O2S
product | 1-(4-Chloro-2-trifluoromethylphenyl)-3-[2-(6,7-dimethoxyquinazolin-4-ylamino)benzothiazol-6-yl]urea | ClC1=CC(=C(C=C1)NC(=O)NC1=CC2=C(N=C(S2)NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=C1)C(F)(F)F | C25H18ClF3N6O3S
